Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Short of breath
 
Major Surgical or Invasive Procedure:
___ thorocentesis
 
History of Present Illness:
___ with known metastatic NSCLC to T11, mediastinal LAD, pleural 
studding and malignant pleural effusion presents to ED with 
worsening SOB, dyspnea on exertion, increasing fatigue, malaise 
and anorexia. Diagnosed ~ 1 month PTA and underwent right 
thoracentesis on ___ with postitive cytology for adenoca of 
pulmonary origin. Staging CT showed solid perihilar mass in the 
right lung with mediastinal lymphadenopathy and potential 
pleural seeding with large pleural effusion. MRI showed met at 
T11. Was consented for XRT to T11 spinal met 1 day PTA. Felt 
worse over the course of the day and was referred to ED. O2 sat 
was 86% on RA at presentation. Work up revealed reaccumulation 
of large right pleural effusion with near white out. The patient 
was seen by IP and underwent thoracentesis in ED with rapid 
improvement in symptoms. Noted to have a leukocytosis worrisome 
for infection though he denies fevers, sweats, chills, cough, or 
dysuria. Urine and blood were cultured. UA shows > 182 WBC, 
moderate bacteria, and large leukocytes. He received one dose of 
vancomycin and zosyn in the ED. Other labs notable for an 
elevated lactate 2.9.
.
On ROS he denies chest pain, abd pain, rashes, change in bowel 
habits (chronic constipation), diarrhea. He has noted anorexia 
and loss of taste x 1 week. Hoarseness that would come and go in 
Fla then consistently present since his return to ___ in ___. 
More fatigued since a week ago. All other ROS are negative.
 
Past Medical History:
# HTN
# diverticulosis 
# history of squamous cell cancer of the penis status post 
penectomy ___ years ago as well as 
# appendectomy  
# tonsillectomy 

 
Social History:
___
Family History:
arthritis
 
Physical Exam:
Pain: Controlledx   Uncontrolled  0  ___  ___  ___  
10    Location: mid-low thoracic spine
VS: T: 97.3   BP: 150/70   P:103   RR:20    O2Sat: 93 % on 3.5L 
O2 & 89% on RA 
GENERAL:  well appearing in no apparent distress    
Eyes:NC/AT, PERRL, EOMI without nystagmus, no scleral icterus 
noted  
Ears/Nose/Mouth/Throat: Mucous membranes moist,without ulcers or 
exudates, plates above and below, edentulous 
Neck: supple, no JVD   
Respiratory: CTA bilaterally without rhonci, without wheezes
Cardiovascular: RRR, S1S2, no murmurs, no rubs, no gallops 
Gastrointestinal: protruberant, soft, NT/ND, no rebound, no 
guarding, normoactive bowel sounds, no masses or organomegaly 
noted. 
Skin: warm, dry, no rashes or lesions noted. No pressure ulcers  

Extremities: without cyanosis, without clubbing, without edema, 
without joint swelling, pedal pulses diminished  
Lymphatics/Heme/Immun: No cervical, no supracalvicular, no 
axillary lymphadenopathy noted. 
Neurologic:  
-mental status: Alert, oriented to situation. Normal attention. 
Able to relate history without difficulty. Fluent speech. 
-cranial nerves: II-XII intact  
-motor: normal bulk, ___ strength and tone throughout. mild 
resting tremor bilateral upper extremities
-sensory: No deficits to light touch throughout. 
Psychiatric:  calm, pleasant, appropriate.
 
Pertinent Results:
___ 01:30PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 01:30PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-LG
___ 01:30PM URINE  RBC-8* WBC->182* BACTERIA-MOD YEAST-NONE 
EPI-0 TRANS EPI-<1
___ 01:30PM URINE  HYALINE-3*
___ 01:30PM URINE  MUCOUS-RARE
___ 01:20PM PLEURAL  TOT PROT-3.5 GLUCOSE-89 LD(LDH)-297 
TOT BILI-1.1 ALBUMIN-2.2
___ 01:20PM PLEURAL  WBC-1000* RBC-8800* POLYS-3* 
LYMPHS-10* MONOS-15* EOS-4* MESOTHELI-11* OTHER-57*
___ 11:29AM   GLUCOSE-125* UREA N-34* CREAT-1.1 SODIUM-141 
POTASSIUM-3.9 CHLORIDE-101 TOTAL CO2-25 ANION GAP-19
___ 10:09AM   LACTATE-2.9*
___ 10:00AM   WBC-18.0* RBC-4.78 HGB-15.1 HCT-45.1 MCV-94 
MCH-31.5 MCHC-33.4 RDW-14.2
___ 10:00AM   NEUTS-82.9* LYMPHS-11.2* MONOS-5.0 EOS-0.4 
BASOS-0.6
___ 10:00AM   PLT COUNT-310
___ 10:00AM   ___ PTT-27.4 ___
.
___ CXR: IMPRESSION:  Very large right-sided pleural effusion 
which may be partially loculated, increased significantly since 
the prior study, with underlying atelectasis. 
.
___ CXR IMPRESSION:  Decrease in size in right-sided pleural 
effusion, although still significant in size with right sided 
atelectasis/partial lung collapse.  No evidence of pneumothorax.
.
___ 1:20 pm PLEURAL FLUID
GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin 
method,please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Preliminary): 

   ANAEROBIC CULTURE (Preliminary): 

 
  

 
Brief Hospital Course:
Assessment and Plan: ___ yo man with metastatic NSCLC, malignant 
pleural effusion and spinal met to T11. s/p thoracentesis in ED 
for rapid reaccumulation of effusion. WBC's noted on CBC in ED 
with +UA. Gram stain of pleural fluid was without bacteria or 
PMNs. Total polys = 30 so did not appear to be source of white 
count. Received Vancomycin and zosyn in ED then changed to 
ciprofloxicin for UA. Remained stable overnight for discharge 
with O2 to keep sats > 93%. Will return 2 days after discharge 
to IP for pleurodesis.
.
# Met adeno CA of lungs with mediastinal LAD, recurrent 
malignant pleural effusion, and T11 lytic lesion: total polys 
from pl eff = 30. Does not appear to have an empyema. continued 
tylenol for neoplastic pain. added oxycodone 2.5 mg Q6H prn. 
Received his next fraction of radiation. Evaluated by ___ and 
felt to be safe for home but requires supplemental O2 which was 
arranged with case management.
- PENDING cultures from pleural fluid
.
# Leukocytosis: likely urinary source with WBCs and bacteria on 
UA. Received zosyn and vancomycin in ED. He is stable and 
afebrile. ___'s improved overnight. Gram stain of pl fluid is 
without bacteria or PMNs. Total polys = ___ffusion does 
not appear to be source of white count.
- PENDING urine, pl fluid and blood cx as outpatient 
- Will continue ciprofloxicin by po x ___s outpatient
- encouraged to increase hygiene at site of urethreal conduit 
following penectomy.
.
# Hypoxemia: due to pleural effusion. He has many pack years and 
may have baseline COPD that has been undiagnosed.  continued O2 
at 3L NC to keep sats > 93% at home. IP is planning for 
thoracoscopy 2 days after discharge.
.
# Tumor pain: due to lytic T11 metastasis. continued tylenol for 
neoplastic pain,added oxycodone 2.5 mg prn.
.
# Chronic constipation: continued senna and colace as scheduled 
meds
.
# HTN: on tamulosin but suspect this is for BPH or prostate 
cancer that he does not report.  continued tamulosin.
.
# BPH: he does not report BPH or prostate tumor but his 
medications indicate that he has difficulty with urinary 
frequency/hesitancy and BPH. continued tamulosin and continued 
avodart (nonformulary - will asked family to bring in).
.
#FEN: NS x 1L 75cc/hr after admission to oncology hospitalist in 
addition to IVF in ED. 
.  
#Lines: PIV 
.  
#PPX: heparin 5000 units TID SC  
 
.  
Precautions for: fall 
.    
CODE: FULL.  
.  
Contact: patient 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Avodart *NF* (dutasteride) 0.5 mg Oral daily 
2. Tamsulosin 0.4 mg PO HS 
3. Acetaminophen 650 mg PO Q6H:PRN pain 
4. Senna 1 TAB PO DAILY:PRN constipation 
5. Docusate Sodium 100 mg PO DAILY:PRN constipation 

 
Discharge Medications:
1. oxygen
3L via nasal cannula continuous
pulse dose for portability.
Room air sat 88%
Diagnosis lung cancer
2. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*8 Tablet Refills:*0
3. OxycoDONE (Immediate Release)  2.5 mg PO Q6H:PRN pain 
unresponsive to tylenol 
Use tylenol first  
RX *oxycodone 5 mg one half tablet(s) by mouth Q6H:prn Disp #*15 
Tablet Refills:*0
4. Acetaminophen 650 mg PO Q6H:PRN pain 
5. Avodart *NF* (dutasteride) 0.5 mg Oral daily 
6. Senna 1 TAB PO DAILY:PRN constipation 
7. Tamsulosin 0.4 mg PO HS 
8. Docusate Sodium 100 mg PO DAILY:PRN constipation 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cancer of the lung
Urinary tract infection
Pleural effusion (fluid around the lung)
Hypoxemia (low oxygen)
Spinal cord metastases
Tumor pain
s/p penectomy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for shortness of breath and a low oxygen due 
to fluid on your lung from lung cancer. The fluid was drained 
but you will continue to need oxygen. You have an elevated white 
blood cound and a bladder infection so you were started on 
ciprofloxicin, an antibiotic pill that you should take for 5 
days total.
.
Please make sure to wash gently around your urethral drainage. 
This will help prevent urinary tract infections. 
 
Followup Instructions:
___